US05574042
To a solution of N-benzyl-3,5-dichloro-4-formyl-N-methylaniline (820 mg) in ethyl acetate (10 ml) was added palladium hydroxide (80 mg) under nitrogen atmosphere. This mixture was stirred under hydrogen atmosphere under atmospheric pressure at ambient temperature for one and half an hour. The precipitate was dissolved into chloroform and filtered through celite and the filtrate was concentrated in vacuo. The residual solid was suspended in diisopropyl ether and warmed at 90° C. After being stirred and cooled, the solid was collected by filtration to afford 3,5-dichloro-4-formyl-N-methylaniline (470 mg) as a pale brown solid.

reactant | N-benzyl-3,5-dichloro-4-formyl-N-methylaniline | 820 mg | C(C1=CC=CC=C1)N(C1=CC(=C(C(=C1)Cl)C=O)Cl)C | C15H13Cl2NO
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium hydroxide | 80 mg | [OH-].[Pd+2].[OH-]
product | 3,5-dichloro-4-formyl-N-methylaniline | 470 mg | ClC=1C=C(NC)C=C(C1C=O)Cl | C8H7Cl2NO
